US06838463B2
To 2.2 ml of chloroform were added 0.29 ml of diisopropylethylamine, 0.2 g of 4-(2-butynyloxy)-6-chloropyrimidine, and 0.17 g of 2-fluorothiophenol, followed by stirring at room temperature for 7 hours. Then, a saturated aqueous ammonium chloride solution was poured into the reaction mixture, which was extracted three times with t-butyl methyl ether. The organic layers were combined, washed with water, dried over anhydrous magnesium sulfate, and then concentrated. The residue was subjected to silica gel column chromatography to give 0.07 g of 4-(2-butynyloxy)-6-(2-fluorophenylthio)pyrimidine (the present compound (146)).

reactant | diisopropylethylamine | 0.29 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-(2-butynyloxy)-6-chloropyrimidine | 0.2 g | C(C#CC)OC1=NC=NC(=C1)Cl | C8H7ClN2O
reactant | 2-fluorothiophenol | 0.17 g | FC1=C(C=CC=C1)S | C6H5FS
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | chloroform | 2.2 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-(2-butynyloxy)-6-(2-fluorophenylthio)pyrimidine | 0.07 g | C(C#CC)OC1=NC=NC(=C1)SC1=C(C=CC=C1)F | C14H11FN2OS
